### PR TITLE
[Merged by Bors] - refactor: deprecate `Ordinal.IsNormal` for `Order.IsNormal`

### PR DESCRIPTION
**Pull request by vihdzp**
---

See issue #17033.

Moved from #28743.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 1]
```diff
@@ -532,7 +532,7 @@ theorem cof_cof (a : Ordinal.{u}) : cof (cof a).ord = cof a := by
   obtain ⟨g, hg⟩ := exists_fundamental_sequence a.cof.ord
   exact ord_injective (hf.trans hg).cof_eq.symm
 
-protected theorem IsNormal.isFundamentalSequence {f : Ordinal.{u} → Ordinal.{u}} (hf : IsNormal f)
+theorem isFundamentalSequence_of_isNormal {f : Ordinal.{u} → Ordinal.{u}} (hf : IsNormal f)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean]:
```suggestion
theorem isFundamentalSequence.of_isNormal {f : Ordinal.{u} → Ordinal.{u}} (hf : IsNormal f)
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 2]
```diff
@@ -178,12 +178,12 @@ theorem enumOrd_isNormal_iff_isClosed (hs : ¬ BddAbove s) :
...
   refine
     ⟨fun h => isClosed_iff_iSup.2 fun {ι} hι f hf => ?_, fun h =>
-      (isNormal_iff_strictMono_limit _).2 ⟨Hs, fun a ha o H => ?_⟩⟩
+      isNormal_iff.2 ⟨Hs, fun a ha o H => ?_⟩⟩
   · let g : ι → Ordinal.{u} := fun i => (enumOrdOrderIso s hs).symm ⟨_, hf i⟩
     suffices enumOrd s (⨆ i, g i) = ⨆ i, f i by
       rw [← this]
       exact enumOrd_mem hs _
-    rw [IsNormal.map_iSup h g]
+    rw [Order.IsNormal.map_iSup h (bddAbove_of_small _)]
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Topology.lean]:
```suggestion
    rw [h.map_iSup (bddAbove_of_small _)]
```
no?

**Comment by YaelDillies** [comment]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
